US03976653
A solution 41.5 g. of cis-1-benzyl-2-(p-methoxybenzyl)-α-methyl-α-phenyl-3-piperidinemethanol in 8.3 ml. of concentrated hydrochloric acid is diluted with dimethylformamide to a volume of 400 ml. and catalytically hydrogenated under 10 atmospheres of hydrogen in the presence of palladium-on-carbon catalyst. The catalyst is removed by filtration and the solvent is evaporated from the filtrate under reduced pressure. The resulting residue is taken up in ethanol and diluted with diethyl ether to yield cis-2-(p-methoxybenzyl)-α-methyl-α-phenyl-3-piperidinemethanol.

reactant | cis-1-benzyl-2-(p-methoxybenzyl)-α-methyl-α-phenyl-3-piperidinemethanol | C(C1=CC=CC=C1)N1[C@H]([C@H](CCC1)C(O)(C1=CC=CC=C1)C)CC1=CC=C(C=C1)OC | C28H33NO2
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | palladium-on-carbon | [Pd] | Pd
product | cis-2-(p-methoxybenzyl)-α-methyl-α-phenyl-3-piperidinemethanol | COC1=CC=C(C[C@@H]2NCCC[C@@H]2C(O)(C2=CC=CC=C2)C)C=C1 | C21H27NO2
